US07259266B2
Step 2 Preparation of 6-methyl-7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To the mixture of ethyl 6-bromo-7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate (2.2g, 6 mmol), potassium carbonate(3.22g, 23.4mmol), and tetrakis(triphenylphosphine)palladium (0) (700 mg, 0.6 mmol) in 18 ml of anhydrous DMF was added trimethylboroxine(2.5 mL, 9 mmol). The resulting mixture was heated to 110° C. under nitrogen atmosphere for 15 hrs. After cooling to room temperature, to the reaction was added 200 mL of ethyl acetate, the resulting organic phase was washed with brine, and dried over anhydrous magnesium sulfate. After removing the solvents, the residue was purified on a short silica gel column with hexane/EtOAc mixture. The collected fraction was then evaporated to dryness. 300 mg of the purified intermediate was then dissolved in 9 mL of 1:1:1 THF/EtOH/Water, followed by addition of lithium hydroxide hydrate (102 mg). The resulting solution was heated to 80° C. for 1.5 hrs. The volatiles were then removed, the residue was diluted with water, and acidified at 0° C. with dilute hydrochloric acid. Plenty of precipitates were formed. The product was then extracted with ethyl acetate. After removing the solvents, the crude product was purified on reverse phase HPLC. Light yellow solid. 1H NMR (CDCl3/CD3OD/300 MHz) 7.76(s, 1H), 7.07(d, J=8.1 Hz, 1H), 6.68(d, J=9.9 Hz, 1H), 5.65(q, J=6.9 Hz, 1H), 2.20(s, 3H). 19F NMR(CDCl3/CD3OD/300 MHz) −78.93(d, J=6.9 Hz), −107.11(t, J=7.9 Hz). 13C NMR(CDCl3/CD3OD/300 MHz) 168.0, 165.8, 162.3, 153.2(d, J=12.8 Hz), 138.4, 132.2, 123.6(q, J=287.5 Hz), 119.8(d, J=18.5 Hz), 115.0(d, J=43.2 Hz), 104.1(d, J=27.1 hz), 70.7(q, J=33.3 Hz), 14.0(d, J=3.2 Hz). LC-MS(ES+): 277.2(M+1, 100). Hight resolution mass(ES−): m/z calc. For C12H8F4O3: 275.0337(M−H), found: 275.0341.

reactant | ethyl 6-bromo-7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 6 mmol, 2.2g | BrC=1C=C2C=C(C(OC2=CC1F)C(F)(F)F)C(=O)OCC | C13H9BrF4O3
reactant | potassium carbonate | 23.4mmol, 3.22g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxine | 9 mmol, 2.5 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.6 mmol, 700 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-methyl-7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | CC=1C=C2C=C(C(OC2=CC1F)C(F)(F)F)C(=O)O | C12H8F4O3
